US06271225B1
To a solution of N-(2-hydroxy-4-methoxyphenyl)-2-bromo-5-methyl-3-thiophenecarboxamide (2.1 g) in dimethyl sulfoxide (17 ml) was added potassium carbonate (1.7 g), and the mixture was stirred at 145° C. for 2 hours. The reaction system was cooled to room temperature and the reaction mixture was poured into ice water. The precipitated crystals were collected by filtration and the obtained crystals were purified by silica gel column chromatography (chloroform:methanol=20:0-20:1). The obtained solid was collected by filtration from diisopropyl ether-ethyl acetate—methanol to give 8-methoxy-2-methylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one (530 mg).

reactant | N-(2-hydroxy-4-methoxyphenyl)-2-bromo-5-methyl-3-thiophenecarboxamide | 2.1 g | OC1=C(C=CC(=C1)OC)NC(=O)C1=C(SC(=C1)C)Br | C13H12BrNO3S
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 17 ml | CS(=O)C | C2H6OS
product | 8-methoxy-2-methylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 530 mg | COC1=CC2=C(NC(C3=C(O2)SC(=C3)C)=O)C=C1 | C13H11NO3S
